### ISSUE TITLE
Sheafification should invert M ◁ toSheafify for arbitrary M — the tensor-associativity restriction blocking #570

### ISSUE THREAD

**Issue by chris-dare-dev** [chris-dare-dev/derived-alg-geo-lean#833]
Sheafification should invert `M ◁ toSheafify` for an **arbitrary** `M`. The tree proves it only when `M` is invertible, and that restriction is what blocks #570 and, through it, #332.

Equivalently, and this is the form to build against: `isIso_tensorSheafificationComparisonLeft` should hold with no invertibility hypothesis on `L`.

## Why

`Divisors/Tensor.lean:317`, `W_whiskerLeft_of_rankOneData`, splits the statement into two halves:

* `isLocallySurjective_whiskerLeft` (:168) — **general**, no hypothesis on the whiskering factor;
* `isLocallyInjective_whiskerLeft_of_rankOneData` (:273) — **requires rank-one locally free data**.

Only the injectivity half carries the hypothesis. In isolation that is right: tensoring is right exact, so preserving an injection needs flatness. But the hypothesis actually in play is that `g` is a local **bijection** — a stalkwise isomorphism — and `F_x ⊗ (iso)` is an isomorphism for any `F_x`, flat or not. The rank-one condition looks like an artifact of proving the two halves separately rather than using the bijection whole.

Everything downstream inherits the restriction: `isIso_tensorSheafificationComparison{Left,Right}` (:699, :711), and hence `tensorAssocIso` (:726), which is why associativity of the sheafified tensor product is available only when **both** outer factors are invertible.

## What it blocks

#570 needs `F(d)(e) ≅ F(d + e)` for arbitrary quasi-coherent `F`. Three independent routes were tried and all three reduce to it:

* `Γ_*(F)` — the `A`-action `Γ(F(d)) → Γ(F(d+n))`;
* direct global generation — untwisting `free κ ⟶ F(N)` into `⊕O(-N) ↠ F`;
* `Hom(O(-N), F) ≅ Γ(F(N))` — forming `(F ⊗ O(N)) ⊗ O(-N) ≅ F`.

With three factors every bracketing leaves the non-invertible `F` in an outer slot, so `tensorAssocIso` never applies. `Proj/Modules/TensorTwist.lean` and `Proj/Modules/GlueUniform.lean` both already record the obstruction; neither identifies that the fix is general. `TwistComparison.lean:271` `tensorTwistAddIso` supplies the composition only for `F` an associated sheaf, which #570 may not assume without circularity.

Full reconnaissance in https://github.com/chris-dare-dev/derived-alg-geo-lean/issues/570#issuecomment-5446673725.

> **Scope narrowed 2026-08-28** after a reconnaissance pass; see the probe comment below for the
> evidence. The original scope — `tensorAssocIso` with no invertibility hypothesis on any factor,
> via whiskering by an arbitrary local bijection — is strictly more than #570 needs, in two
> independent ways. What follows is the narrowed target. The wider statement remains true and
> desirable; it is just not the blocker.

## Scope

**Deliverable: `isIso_tensorSheafificationComparisonLeft` for arbitrary `L`.**

`tensorAssocIso L M N` (`Divisors/Tensor.lean:726`) rests on two comparisons:

| | needs | at `(F ⊗ O(d)) ⊗ O(e)` |
|---|---|---|
| `cR = tensorSheafificationComparisonRight (L ⊗ M) N` | `N` invertible | `N = O(e)` ✅ already satisfied |
| `cL = tensorSheafificationComparisonLeft L (M ⊗ N)` | `L` invertible | `L = F` ❌ **the blocker** |

`#570` wants `F(d)(e) ≅ F(d + e)`, so `L = F`, `M = O(d)`, `N = O(e)`. The right-hand comparison
is already fine. **`isIso_tensorSheafificationComparisonRight` does not need generalising for this
consumer.**

**And the morphism whiskered is always the sheafification unit**, never a general local bijection:

```
isIso_tensorSheafificationComparisonLeft L P                          (:699)
  ← isIso_sheafification_map_whiskerLeft_unit_of_rankOneData q hq P   (:376)
  ← isIso_sheafification_map_whiskerLeft_of_rankOneData q hq g hg     (:343)
      with  g  = (sheafificationAdjunction _).unit.app P
      and   hg = K.W_toSheafify P.presheaf
  ← W_whiskerLeft_of_rankOneData                                      (:317)
  ← isLocallyInjective_whiskerLeft_of_rankOneData                     (:273)  ← the hypothesis
  + isLocallySurjective_whiskerLeft                                   (:168)  ← already general
```

So state the target as **sheafification inverts `M ◁ toSheafify`** — the standard fact that the
sheafified tensor product is well defined on sheafification classes. That is a smaller and more
recognisable statement than "whiskering preserves local bijections", and it is the shape of the
Mathlib gap: `Presheaf/Monoidal.lean` exists, `Sheaf/Monoidal.lean` does not (checked against the
pinned copy).

### Where the hypothesis enters, and why the halves are asymmetric

Exactly one place: `isLocallyInjective_whiskerLeft_of_rankOneData` (`:273`) covers by the
trivializing opens `q.X i`, uses `q.rankOneTrivialization` to get `M|_{X i} ≅ unit`, and hands off
to `isLocallyInjective_whiskerLeft_of_isoUnit` (`:228`), which rewrites `F ◁ g` through the
unitors. Rank-one is therefore being used to make `M` **locally trivial**, not as flatness — much
stronger than the argument needs.

The asymmetry with the surjectivity half is structural, not an oversight:
`isLocallySurjective_whiskerLeft` proves its goal by `TensorProduct.induction_on`, checking pure
tensors. Injectivity cannot be checked on pure tensors, so that route is closed and the proof
reaches for local triviality instead.

### Two candidate routes, neither verified

1. **Stalkwise**, at the scheme level, where local injectivity is a stalkwise condition. Needs
   "stalk of a presheaf-of-modules tensor = tensor of stalks", a filtered-colimit commutation
   Mathlib does not package — there is also no stalkwise characterisation of `IsLocallyInjective`
   in `CategoryTheory/Sites/` or `Topology/Sheaves/`. Narrower than the current statement, which is
   over a general site, and enough for every consumer in this tree.
2. **Site level**: sheafification is monoidal, so it inverts `M ◁ g` whenever it inverts `g`.
   Plausibly a Mathlib contribution, and the honest general statement.

Scoping which one is the first deliverable is still the first task.

### The re-bracketing escape does not exist — checked

`tensorAssocIso A F B` is **legal** with `F` in the middle, both outer factors being invertible, so
one can legitimately reach

```
(F ⊗ O(d)) ⊗ O(e)  ≅  (O(d) ⊗ F) ⊗ O(e)   -- comm ▷ O(e)
                   ≅  O(d) ⊗ (F ⊗ O(e))   -- tensorAssocIso O(d) F O(e)
```

and no further. Every continuation to `F ⊗ (O(d) ⊗ O(e))` needs an associator with `F` outer:
`… → (O(d) ⊗ O(e)) ⊗ F` needs `N = F`; `… → F ⊗ (O(e) ⊗ O(d))` needs `L = F`. Recorded so the
manoeuvre is not re-derived — it is a genuine near-miss, not an untried idea.

## Out of scope

* `Γ_*`, the Serre correspondence, and #570's surjection. They sit on top of this and should not
  land with it.
* Any weakening that keeps a flatness or local-freeness hypothesis on the whiskering factor — that
  is the current state, and it does not unblock #570.
* **`isIso_tensorSheafificationComparisonRight`, and `tensorAssocIso` with no hypothesis on any
  factor.** Both are desirable and neither blocks #570. Generalising the `Left` comparison may make
  them fall out; if it does not, they are a separate issue.

## Acceptance criteria

- [ ] `isIso_tensorSheafificationComparisonLeft` holds for arbitrary `L : X.Modules`, with no
      invertibility hypothesis — or a documented statement of exactly which route failed and why.
- [ ] `tensorAssocIso L M N` available with **`N` invertible alone**, which is what `F(d)(e) ≅
      F(d + e)` consumes. Dropping the hypothesis on `N` as well is out of scope above.
- [ ] The rank-one variants either subsumed or retained as specialisations, with no consumer
      regressed.
- [ ] `Divisors/Monoidal.lean` reviewed for what its restriction to `InvertibleSheaf X` was buying,
      since that restriction may no longer be needed.
- [ ] No `sorry`, declarations registered in the audit, `scripts/gates.sh` green.

## Effort

Large, and load-bearing: this is `Divisors/**`, not `Proj/**`. Worth its own PR before anything in #332's chain is built on it.

**Comment by chris-dare-dev** [comment]
**Probe, before any implementation.** Everything below checked against `main` at `139c046`. No code written.

The scope in the issue body is wider than what actually blocks #570, in two independent ways.

## 1. Only the *Left* comparison blocks #570

`tensorAssocIso L M N` (`Divisors/Tensor.lean:726`) is built from two comparisons:

| | needs | at `(F ⊗ O(d)) ⊗ O(e)` |
|---|---|---|
| `cR = tensorSheafificationComparisonRight (L ⊗ M) N` | `N` invertible | `N = O(e)` ✅ already fine |
| `cL = tensorSheafificationComparisonLeft L (M ⊗ N)` | `L` invertible | `L = F` ❌ **the blocker** |

`#570` wants `F(d)(e) ≅ F(d+e)`, i.e. `L = F`, `M = O(d)`, `N = O(e)`. The right-hand comparison is already satisfied. **Generalising `isIso_tensorSheafificationComparisonRight` is not needed for this consumer**, and the acceptance criterion "`tensorAssocIso` for arbitrary `X.Modules`, no invertibility on any factor" is strictly more than #570 requires.

## 2. The whiskered morphism is never an arbitrary local bijection

Following the chain down:

```
isIso_tensorSheafificationComparisonLeft L P                          (:699)
  ← isIso_sheafification_map_whiskerLeft_unit_of_rankOneData q hq P   (:376)
  ← isIso_sheafification_map_whiskerLeft_of_rankOneData q hq g hg     (:343)
      with  g  = (sheafificationAdjunction _).unit.app P
      and   hg = K.W_toSheafify P.presheaf
  ← W_whiskerLeft_of_rankOneData                                      (:317)
  ← isLocallyInjective_whiskerLeft_of_rankOneData                     (:273)  ← the hypothesis
  + isLocallySurjective_whiskerLeft                                   (:168)  ← already general
```

Every consumer instantiates `g` at **`toSheafify`**, the sheafification unit — never at a general local bijection. So the target can be stated as *"sheafification inverts whiskering by its own unit"* rather than *"whiskering preserves local bijections"*. That is the standard statement that sheafified tensor is well defined on sheafification classes, and it is exactly what Mathlib's missing `Sheaf/Monoidal.lean` would supply. It is a smaller and more recognisable target than the issue's current framing.

## 3. Where the hypothesis actually enters

Exactly one place: `isLocallyInjective_whiskerLeft_of_rankOneData` (`:273`). It covers by the trivializing opens `q.X i`, uses `q.rankOneTrivialization` to get `M|_{X i} ≅ unit`, and hands off to `isLocallyInjective_whiskerLeft_of_isoUnit` (`:228`), which rewrites `F ◁ g` as `e₁.hom ≫ g ≫ e₂.inv` through the unitors.

So rank-one is not being used as flatness. It is being used to make `M` *locally trivial*, which is much stronger than the argument needs. The issue's diagnosis — that this is an artifact of proving the two halves separately — matches what the proof does.

Worth noting why the halves are asymmetric: `isLocallySurjective_whiskerLeft` proves its goal by `TensorProduct.induction_on`, checking pure tensors. Injectivity cannot be checked on pure tensors, so that route is unavailable and the proof reaches for local triviality instead. That is a structural reason, not an oversight.

## 4. The "just re-bracket" escape does not exist — verified

The issue asserts that with three factors every bracketing leaves `F` in an outer slot. I tried to break that, and could not, but the reason is narrower than "every bracketing":

`tensorAssocIso A F B` is **legal** when `F` is in the middle — both outer factors are invertible. So from `(F ⊗ O(d)) ⊗ O(e)` one can legitimately reach

```
(F ⊗ O(d)) ⊗ O(e)  ≅  (O(d) ⊗ F) ⊗ O(e)   -- comm ▷ O(e)
                   ≅  O(d) ⊗ (F ⊗ O(e))   -- tensorAssocIso O(d) F O(e), both outer invertible
```

and that is as far as it goes. Every continuation to `F ⊗ (O(d) ⊗ O(e))` needs an associator with `F` outer:

* `O(d) ⊗ (F ⊗ O(e)) → O(d) ⊗ (O(e) ⊗ F) → (O(d) ⊗ O(e)) ⊗ F` — needs `N = F`;
* `O(d) ⊗ (F ⊗ O(e)) → (F ⊗ O(e)) ⊗ O(d) → F ⊗ (O(e) ⊗ O(d))` — needs `L = F`.

So the wall is real and the middle-slot manoeuvre is a genuine near-miss rather than an untried idea. Recording it so nobody re-derives it.

## What I would change about this issue

* Narrow the acceptance criterion from "`tensorAssocIso` for arbitrary factors" to "`isIso_tensorSheafificationComparisonLeft` for arbitrary `L`". The `Right` half and the general local-bijection statement are both nice-to-have, not blockers.
* State the target as sheafification inverting `M ◁ toSheafify`, which is the form that matches the Mathlib gap.

Neither route in the issue is disproved by this probe. Route 1 (stalkwise) still needs a stalk-of-tensor commutation that Mathlib does not package — I searched `Mathlib/Algebra/Category/ModuleCat/` and `Mathlib/Topology/Sheaves/` and found no stalk/tensor interchange lemma, and no stalkwise characterisation of `IsLocallyInjective`. Route 2 still needs monoidality of sheafification: Mathlib has `Presheaf/Monoidal.lean` and **no** `Sheaf/Monoidal.lean`, confirmed against the pinned copy.

**Comment by chris-dare-dev** [comment]
**Route 1 reconnaissance.** Route 1 reduces to **one missing theorem**. Three of its four ingredients are already in the pinned Mathlib, located below. No code written yet.

## The chain, and where each link comes from

Goal: `IsIso (sheafification.map (M ◁ toSheafify P))`.

| step | statement | status |
|---|---|---|
| (c) | a map of **sheaves** inducing isos on stalks is an iso | ✅ `Topology/Sheaves/Stalks.lean:659` `isIso_of_stalkFunctor_map_iso` |
| (d) | stalks of a sheafification are the stalks of the presheaf | ✅ `Topology/Sheaves/Sheafify.lean:124` `sheafifyStalkIso` |
| (b) | `toSheafify` induces an **iso** on stalks | ✅ `Topology/Sheaves/Sheafify.lean:137` `stalkFunctor_map_unit_toSheafify_isIso` |
| **(a)** | **`(M ⊗ P)ₓ ≅ Mₓ ⊗_{𝒪ₓ} Pₓ`** | ❌ **missing** |

With (a), the proof is: sheafify both sides, compare on stalks by (c); stalks are unchanged by (d);
`(M ◁ η)ₓ` is `Mₓ ⊗ ηₓ` by (a); `ηₓ` is an iso by (b); tensoring an iso is an iso. Done.

## Two things this reconnaissance changes

**The missing stalkwise characterisation of `IsLocallyInjective` is not needed.** My earlier probe flagged it as a route-1 gap. Going through (c) on the *sheafified* map avoids `IsLocallyInjective` entirely — we never split into injective + surjective at all. Only (a) is load-bearing.

For the record, that characterisation genuinely is absent and asymmetric: local **surjectivity** has one (`Topology/Sheaves/LocallySurjective.lean:81`, `IsLocallySurjective T ↔ ∀ x, Function.Surjective ((stalkFunctor C x).map T)`); local injectivity has nothing equivalent. Only the sheaf-to-presheaf special cases at `Stalks.lean:530-541` exist.

**`PreservesColimits (tensorLeft F)` is not (a), and looks like it.** `Algebra/Category/ModuleCat/Presheaf/Monoidal.lean:239` gives

```lean
instance : PreservesColimitsOfSize.{u, u} (tensorLeft F)
```

for `PresheafOfModules`. That is colimits **in the presheaf category**, computed objectwise. A stalk is a colimit of the *values* over the neighbourhood diagram — a different colimit, in a different category. This instance does not give (a), and anyone starting route 1 will find it and think it does.

## What (a) actually costs

`(M ⊗ P)(U) = M(U) ⊗_{𝒪(U)} P(U)`, and the stalk is the filtered colimit over `U ∋ x`. So (a) is: a filtered colimit of tensor products over a **varying** ring equals the tensor product of the colimits over the colimit ring.

Mathlib has the fixed-ring case — `Algebra/Colimit/TensorProduct.lean` (built on `LinearAlgebra.TensorProduct.DirectLimit`) and `Algebra/Category/ModuleCat/FilteredColimits.lean`, both with `R` fixed. The varying-ring case is the one needed here and is not there.

That is real work, but it is **self-contained, known-true, and reusable** — arguably a Mathlib contribution in its own right, independent of anything about `Proj` or Serre. It is also the whole of route 1: nothing else is missing.

## Verdict

Route 1 is **tractable but not a session**. It is one theorem, clearly stated, with its three consumers already in place and a clean proof sketch above. I would not describe it as research: nothing about it is open, and the failure modes are Lean-shaped rather than mathematical.

Route 2 (monoidality of sheafification, `Sheaf/Monoidal.lean`) remains the wider statement and is the larger commitment.

Recommendation: build (a) as its own deliverable — `(M ⊗ P)ₓ ≅ Mₓ ⊗_{𝒪ₓ} Pₓ` for presheaves of modules on a space — and land it before anything in this issue is attempted, since it is the only part that can fail.

**Comment by chris-dare-dev** [comment]
**Correcting my previous comment.** I said (a) was missing and that Mathlib had only the fixed-ring case. The second half is wrong, and it changes the estimate.

## `Mathlib/Algebra/Category/ModuleCat/Stalk.lean` exists

Andrew Yang, 2026, 217 lines. It provides exactly the API I said was absent:

```lean
noncomputable instance : Module (R.stalk x) ↑(TopCat.Presheaf.stalk M.presheaf x)   -- :165, :192
lemma germ_smul (x : X) (U : Opens X) (hx : x ∈ U) (r : R.obj (op U)) (m : M.obj (op U)) :
    germ M.presheaf U x hx (r • m) = R.germ U x hx r • germ M.presheaf U x hx m     -- :203
```

for an arbitrary `M : PresheafOfModules R` on a space — both the `RingCat` and `CommRingCat` variants. It also carries the varying-ring filtered-colimit machinery underneath (`CategoryTheory.Limits.colimit.smul`, `Limits.IsColimit.module`, `Limits.IsColimit.ι_smul`), which is precisely the thing I described as the hard missing piece.

I missed it because my greps were scoped to `Algebra/Category/ModuleCat/Presheaf/` and `.../Sheaf/`. The file sits at the `ModuleCat/` root.

## (a) is statable today — verified, not asserted

```lean
noncomputable def stalkTensorEquiv
    (M P : PresheafOfModules.{u} (R ⋙ forget₂ CommRingCat RingCat)) (x : X) :
    ↑(TopCat.Presheaf.stalk (MonoidalCategory.tensorObj M P).presheaf x) ≃ₗ[R.stalk x]
      ↑(TopCat.Presheaf.stalk M.presheaf x) ⊗[R.stalk x]
        ↑(TopCat.Presheaf.stalk P.presheaf x) :=
  sorry
```

elaborates against the pinned Mathlib with nothing but the expected `sorry` warning — every module structure and the `R.stalk x`-linearity resolve on their own. (Probe file, run through `lake env lean`; not added to the tree.)

## Revised estimate

| | before | now |
|---|---|---|
| can (a) be stated | assumed yes | **verified yes** |
| module-on-stalk API | "missing, varying-ring case" | **exists**, generic |
| filtered-colimit-over-varying-ring machinery | "the hard part" | **exists**, in the same file |
| (a) itself | unproved | unproved — unchanged |

So route 1 is one theorem with its statement checked and its infrastructure already upstream. The remaining work is the two maps and their inverse property: forward by the colimit universal property on germs, backward by choosing a common neighbourhood using filteredness.

My earlier "tractable but not a session" stands, but for a smaller reason than I gave: the cost is the proof, not the missing scaffolding.

**Comment by chris-dare-dev** [comment]
**First working piece of (a).** Compiles clean against the pinned Mathlib — no `sorry`, no warnings. Not yet in the tree: it is a fragment, and a half-built API is worse than none.

The `R(U)`-balanced bilinear map `(m, p) ↦ germ m ⊗ germ p`, which is the cocone leg the forward comparison is assembled from:

```lean
variable {X : TopCat.{u}} {R : X.Presheaf CommRingCat.{u}}
variable (M P : PresheafOfModules.{u} (R ⋙ forget₂ CommRingCat RingCat)) (x : X)

/-- `Mₓ ⊗ Pₓ`, the target of the comparison. -/
abbrev StalkTensor : Type u :=
  ↑(TopCat.Presheaf.stalk M.presheaf x) ⊗[R.stalk x] ↑(TopCat.Presheaf.stalk P.presheaf x)

/-- `Mₓ ⊗ Pₓ` viewed over `R(U)` for a neighbourhood `U` of `x`, via the germ map. -/
@[reducible] noncomputable def stalkTensorModuleAt (U : Opens X) (hx : x ∈ U) :
    Module (R.obj (op U)) (StalkTensor M P x) :=
  Module.compHom _ (R.germ U x hx).hom

/-- The `R(U)`-bilinear map `(m, p) ↦ germ m ⊗ germ p`. -/
noncomputable def stalkTensorBilin (U : Opens X) (hx : x ∈ U) :
    letI := stalkTensorModuleAt M P x U hx
    M.obj (op U) →ₗ[R.obj (op U)] P.obj (op U) →ₗ[R.obj (op U)] StalkTensor M P x :=
  letI := stalkTensorModuleAt M P x U hx
  LinearMap.mk₂ (R.obj (op U))
    (fun m p => TopCat.Presheaf.germ M.presheaf U x hx m ⊗ₜ
      TopCat.Presheaf.germ P.presheaf U x hx p)
    (fun m m' p => by
      have h : TopCat.Presheaf.germ M.presheaf U x hx (m + m')
          = TopCat.Presheaf.germ M.presheaf U x hx m
            + TopCat.Presheaf.germ M.presheaf U x hx m' := map_add _ _ _
      rw [h, TensorProduct.add_tmul])
    (fun a m p => by
      have h : TopCat.Presheaf.germ M.presheaf U x hx (a • m)
          = R.germ U x hx a • TopCat.Presheaf.germ M.presheaf U x hx m := germ_smul M x U hx a m
      rw [h]
      exact (TensorProduct.smul_tmul' _ _ _).symm)
    (fun m p p' => by
      have h : TopCat.Presheaf.germ P.presheaf U x hx (p + p')
          = TopCat.Presheaf.germ P.presheaf U x hx p
            + TopCat.Presheaf.germ P.presheaf U x hx p' := map_add _ _ _
      rw [h, TensorProduct.tmul_add])
    (fun a m p => by
      have h : TopCat.Presheaf.germ P.presheaf U x hx (a • p)
          = R.germ U x hx a • TopCat.Presheaf.germ P.presheaf U x hx p := germ_smul P x U hx a p
      rw [h]
      exact TensorProduct.tmul_smul (R := ↑(R.stalk x)) _ _ _)

end PresheafOfModules
```

`germ_smul` (`ModuleCat/Stalk.lean:203`) is what makes it balanced, in both slots — that is the lemma the file was written to provide, and it does exactly this job.

## Two things that cost iterations, recorded so they are not rediscovered

**`map_add` does not fire through the concrete-category coercion.** The germ appears as `ConcreteCategory.hom (germ …) (m + m')`, and neither `rw [map_add]` nor `simp only [map_add]` matches it. Naming the equation first —

```lean
have h : germ M.presheaf U x hx (m + m') = germ … m + germ … m' := map_add _ _ _
```

— resolves it, because the explicit type lets the `AddMonoidHomClass` instance be found.

**`TensorProduct.tmul_smul` gets stuck on `CompatibleSMul` with twelve metavariables** unless the ring is pinned: `TensorProduct.tmul_smul (R := ↑(R.stalk x)) _ _ _`. The two slots also need *different* lemmas and opposite orientations — `smul_tmul'` reversed on the `M` side, `tmul_smul` forward on the `P` side.

## What remains

1. The cocone: assemble the legs into `Cocone ((OpenNhds.inclusion x).op ⋙ (M ⊗ P).presheaf)`, with naturality from `tensorObj_map_tmul` and `germ_res`.
2. Forward map by `colimit.desc`.
3. Backward map: bilinear on germs, choosing a common neighbourhood by filteredness — the direction that actually needs `IsFiltered`.
4. The two composites, by `stalk_hom_ext` (`Topology/Sheaves/Stalks.lean:140`) and `TensorProduct.ext`.

Step 3 is the one with real content; 1, 2 and 4 are plumbing.

**Comment by chris-dare-dev** [comment]
**Backward map: two more pieces, both compiling clean** (no `sorry`, no warnings).

```lean
`m ⊗ p` restricted to `U ⊓ V`. This is the value the backward map must take on germs. -/
noncomputable def germTmul {U V : Opens X} (hxU : x ∈ U) (hxV : x ∈ V)
    (m : M.obj (op U)) (p : P.obj (op V)) :
    ToType (TopCat.Presheaf.stalk
      (MonoidalCategory.tensorObj (C := PresheafOfModules.{u} _) M P).presheaf x) :=
  TopCat.Presheaf.germ
    (MonoidalCategory.tensorObj (C := PresheafOfModules.{u} _) M P).presheaf
    (U ⊓ V) x ⟨hxU, hxV⟩
      (M.map (homOfLE inf_le_left).op m ⊗ₜ P.map (homOfLE inf_le_right).op p)

/-- Shrinking the neighbourhood of `m` does not change the germ of `m ⊗ p`. -/
lemma germTmul_res_left {U U' V : Opens X} (h : U' ≤ U) (hxU' : x ∈ U') (hxV : x ∈ V)
    (m : M.obj (op U)) (p : P.obj (op V)) :
    germTmul M P x (h hxU') hxV m p
      = germTmul M P x hxU' hxV (M.map (homOfLE h).op m) p := by
  unfold germTmul
  rw [← TopCat.Presheaf.germ_res_apply
    (MonoidalCategory.tensorObj (C := PresheafOfModules.{u} _) M P).presheaf
    (homOfLE (inf_le_inf_right V h)) x ⟨hxU', hxV⟩]
  congr 1
  erw [Monoidal.tensorObj_map_tmul]
  congr 1
  · show M.presheaf.map _ (M.presheaf.map _ m) = M.presheaf.map _ (M.presheaf.map _ m)
    rw [← ConcreteCategory.comp_apply, ← Functor.map_comp,
      ← ConcreteCategory.comp_apply, ← Functor.map_comp]
    congr 2
  · show P.presheaf.map _ (P.presheaf.map _ p) = P.presheaf.map _ p
    rw [← ConcreteCategory.comp_apply, ← Functor.map_comp]
    rfl

end PresheafOfModules
```

`germTmul` is the value the backward map must take on a pair of germs — the point where the two sections have to be brought onto a common neighbourhood. `germTmul_res_left` says shrinking the neighbourhood of `m` does not change it, which is the well-definedness core: with it and its mirror image on the right, independence of representatives follows by shrinking both to a common `W` via `germ_eq` (`Topology/Sheaves/Stalks.lean:449`).

## Three more traps, recorded

**`Monoidal.tensorObj_map_tmul` needs `erw`, not `rw`.** The goal presents the tensor as `MonoidalCategoryStruct.tensorObj M P` while the lemma is stated for `Monoidal.tensorObj` — defeq, not syntactic, so `rw` fails to match. `Divisors/Tensor.lean` already hits this in `isLocallySurjective_whiskerLeft` and uses `erw` for the same reason; it is a property of the monoidal-category instance, not of these proofs.

**`Functor.map_comp` does not apply to `M.map`.** A `PresheafOfModules` restriction is semilinear over a changing ring, so it is not a functor map. Restate the goal through the underlying presheaf first — `show M.presheaf.map _ (M.presheaf.map _ m) = …` — and then the ordinary `← ConcreteCategory.comp_apply, ← Functor.map_comp` works.

**`congr 2` closes the composite, `Subsingleton.elim` is not needed.** Hom-sets in `(Opens X)ᵒᵖ` are subsingletons, so the two composites are handled by `congr` alone; adding the explicit `Subsingleton.elim` produces "no goals to be solved".

## State of (a)

| piece | status |
|---|---|
| statement `stalkTensorEquiv` | elaborates |
| `stalkTensorBilin` — the `R(U)`-balanced forward leg | **compiles** |
| `germTmul` — the backward value on germs | **compiles** |
| `germTmul_res_left` — shrinking on the left | **compiles** |
| `germTmul_res_right` — mirror image | not written; should be the same proof |
| independence of representatives | not written; follows from the two shrinking lemmas + `germ_eq` |
| backward map as `TensorProduct.lift` | not written |
| forward cocone + `colimit.desc` | not written |
| the two composites | not written |

Nothing so far has needed an idea that is not already in the file. The remaining work is volume, not difficulty — with the caveat that the backward map's `Rₓ`-linearity has not been attempted yet, and that is the step most likely to need something new.

**Comment by chris-dare-dev** [comment]
**Well-definedness is done.** `germTmul_res_right` and `germTmul_congr` both compile clean, no `sorry`, no warnings.

```lean
      ← ConcreteCategory.comp_apply, ← Functor.map_comp]
    congr 2

/-- `germTmul` depends only on the two germs, not on the sections representing them. -/
lemma germTmul_congr {U U' V V' : Opens X} (hxU : x ∈ U) (hxU' : x ∈ U')
    (hxV : x ∈ V) (hxV' : x ∈ V')
    (m : M.obj (op U)) (m' : M.obj (op U')) (p : P.obj (op V)) (p' : P.obj (op V'))
    (hm : TopCat.Presheaf.germ M.presheaf U x hxU m
        = TopCat.Presheaf.germ M.presheaf U' x hxU' m')
    (hp : TopCat.Presheaf.germ P.presheaf V x hxV p
        = TopCat.Presheaf.germ P.presheaf V' x hxV' p') :
    germTmul M P x hxU hxV m p = germTmul M P x hxU' hxV' m' p' := by
  obtain ⟨W, hxW, iU, iU', hW⟩ := TopCat.Presheaf.germ_eq M.presheaf x hxU hxU' m m' hm
  obtain ⟨W', hxW', iV, iV', hW'⟩ := TopCat.Presheaf.germ_eq P.presheaf x hxV hxV' p p' hp
  have l : germTmul M P x hxU hxV m p
      = germTmul M P x hxW hxW' (M.map iU.op m) (P.map iV.op p) :=
    (germTmul_res_left M P x (leOfHom iU) hxW hxV m p).trans
      (germTmul_res_right M P x (leOfHom iV) hxW hxW' (M.map iU.op m) p)
  have r : germTmul M P x hxU' hxV' m' p'
      = germTmul M P x hxW hxW' (M.map iU'.op m') (P.map iV'.op p') :=
    (germTmul_res_left M P x (leOfHom iU') hxW hxV' m' p').trans
      (germTmul_res_right M P x (leOfHom iV') hxW hxW' (M.map iU'.op m') p')
  rw [l, r]
  -- `congr` discharges the two component goals with `hW` and `hW'` from context
  congr 1
```

`germTmul_congr` is the statement that `germTmul` depends only on the two germs, not on the sections representing them — the well-definedness the backward map needs. It falls out of the two shrinking lemmas plus `germ_eq`, which produces the common neighbourhood. That is where filteredness enters, and it enters through an existing Mathlib lemma rather than by hand.

## An integrity check worth recording

The final step is bare `congr 1`, which closed **all** remaining goals. That is exactly the shape of an accidentally-vacuous proof, so I checked rather than assumed: inserting `clear hW hW'` before it makes the proof fail with unsolved goals.

So `congr` is discharging the two component goals using `hW` and `hW'` from context — `congr` tries `assumption` on side goals — and the lemma genuinely depends on its hypotheses. Worth knowing that `congr` will silently consume context hypotheses here; it makes the proof short but hides which fact did the work, which is why the line carries a comment.

## State of (a)

| piece | status |
|---|---|
| statement `stalkTensorEquiv` | elaborates |
| `stalkTensorBilin` — forward `R(U)`-balanced leg | **compiles** |
| `germTmul` | **compiles** |
| `germTmul_res_left` / `_res_right` | **compiles** |
| `germTmul_congr` — well-definedness | **compiles**, non-vacuity checked |
| backward map as `TensorProduct.lift` | not written — needs `Rₓ`-linearity |
| forward cocone + `colimit.desc` | not written |
| the two composites | not written |

The backward map can now be *defined* on germs without further well-definedness work. What has still not been touched is its `Rₓ`-linearity, which remains the step most likely to need an idea that is not yet in the file: the scalar `r ∈ Rₓ` is itself a germ, so `r • (germ m ⊗ germ p)` has to be matched against `germTmul` of a section of `R` times a section of `M`, on a third common neighbourhood.

**Comment by chris-dare-dev** [comment]
**The `Rₓ`-linearity step is done at a single neighbourhood** — the step flagged twice as the one most likely to need a new idea. It did not.

```lean
/-- Over a single neighbourhood, `germTmul` is just the germ of the pure tensor. -/
lemma germTmul_self {U : Opens X} (hxU : x ∈ U)
    (m : M.obj (op U)) (p : P.obj (op U)) :
    germTmul M P x hxU hxU m p
      = TopCat.Presheaf.germ
          (MonoidalCategory.tensorObj (C := PresheafOfModules.{u} _) M P).presheaf
          U x hxU (m ⊗ₜ p) := by
  unfold germTmul
  rw [← TopCat.Presheaf.germ_res_apply
    (MonoidalCategory.tensorObj (C := PresheafOfModules.{u} _) M P).presheaf
    (homOfLE (inf_le_left : U ⊓ U ≤ U)) x ⟨hxU, hxU⟩ (m ⊗ₜ p)]
  congr 1

/-- The scalar action on the stalk, over a single neighbourhood: this is the `Rₓ`-linearity
of the backward map, before the three neighbourhoods are separated. -/
lemma germ_smul_germTmul_self {U : Opens X} (hxU : x ∈ U)
    (r : R.obj (op U)) (m : M.obj (op U)) (p : P.obj (op U)) :
    R.germ U x hxU r • germTmul M P x hxU hxU m p
      = germTmul M P x hxU hxU (r • m) p := by
  rw [germTmul_self, germTmul_self,
    ← germ_smul (MonoidalCategory.tensorObj (C := PresheafOfModules.{u} _) M P) x U hxU r
      (m ⊗ₜ p)]
  -- what remains is `r • (m ⊗ₜ p) = (r • m) ⊗ₜ p`, definitional for the `ModuleCat` tensor
  congr 1

end PresheafOfModules
```

`germTmul_self` reduces `germTmul` over one neighbourhood to the germ of the pure tensor, and then linearity is `germ_smul` applied to the presheaf `M ⊗ P` itself, plus `smul_tmul'` — which turns out to be definitional for the `ModuleCat` tensor, so `congr 1` finishes it.

The general case, with `r`, `m`, `p` over three different neighbourhoods, now reduces to this one by shrinking all three to a common neighbourhood with `germTmul_res_left` / `_res_right`, both of which are already proved. So no new idea is needed there either — it is the same `germ_eq` argument as `germTmul_congr`.

## Why this was the risk, and what defused it

The worry was that `r ∈ Rₓ` is itself a germ, so `r • (germ m ⊗ germ p)` would have to be matched against a section of `R` times a section of `M` on a *third* common neighbourhood, with no lemma in reach. What defuses it is that `germ_smul` in `ModuleCat/Stalk.lean` applies to **any** presheaf of modules — including `M ⊗ P`. Applying it to the tensor itself, rather than to `M` and `P` separately, collapses the three-neighbourhood problem to a one-neighbourhood one before any scalar has to be moved across a tensor.

## Everything compiling so far

```
StalkTensor                    -- Mₓ ⊗[Rₓ] Pₓ
stalkTensorModuleAt            -- Mₓ ⊗ Pₓ as an R(U)-module, via the germ map
stalkTensorBilin               -- the R(U)-balanced forward leg
germTmul                       -- the backward value on a pair of germs
germTmul_res_left / _res_right -- shrinking either neighbourhood
germTmul_congr                 -- well-definedness (non-vacuity checked)
germTmul_self                  -- one neighbourhood: germ of the pure tensor
germ_smul_germTmul_self        -- Rₓ-linearity, one neighbourhood
```

163 lines, no `sorry`, no warnings, no axioms beyond the ambient ones.

## What is left

1. `germ_smul_germTmul` — the three-neighbourhood version, by shrinking to a common one.
2. The backward map itself: `TensorProduct.lift` of the bilinear map assembled from `germTmul`, `germTmul_congr` and the linearity above. Additivity in each slot still needs the same shrinking treatment.
3. The forward cocone and `colimit.desc`.
4. The two composites, via `stalk_hom_ext` and `TensorProduct.ext`.

Step 2's additivity is the only place left where two germs have to be added before being tensored, and it will need the same common-neighbourhood move. Nothing in 1–4 now looks like it needs an idea that is not already in the file — which is a claim I have made before and revised twice, so treat it accordingly.

**Comment by chris-dare-dev** [comment]
**Checkpoint.** The general three-neighbourhood linearity is 90% done but not finished, and I am parking it rather than leaving a misleading "nearly there".

## What is green

Nine declarations, no `sorry`, no warnings:

```
StalkTensor · stalkTensorModuleAt · stalkTensorBilin      (forward side)
resSec · germTmul · germTmul_res_left · germTmul_res_right
germTmul_congr · germTmul_self · germ_smul_germTmul_self  (backward side)
```

## What is not

`germ_smul_germTmul` — the version with `r`, `m`, `p` over three different neighbourhoods. The mathematical content is complete: shrink all three to `W ⊓ U ⊓ V` with the two `res` lemmas, rewrite the scalar with `germ_res_apply` on `R`, apply `germ_smul_germTmul_self`, then reconcile with `M.map_smul`. That chain all goes through.

What is left is **one goal**, and it is bookkeeping, not mathematics: after `erw [M.map_smul]` and `congr 1`, a residual `case e_m.e_a` asks that two composites of restriction maps agree, in a spelling that mixes `R.map` with `(R ⋙ forget₂ CommRingCat RingCat).map`. Neither `show` (the two functors are not syntactically interchangeable) nor `simp only [← ConcreteCategory.comp_apply, ← Functor.map_comp, ← Functor.comp_map]` closes it.

The working draft is preserved; anyone picking this up should start there rather than re-deriving the chain.

## Statement, for the record

```lean
lemma germ_smul_germTmul {W U V : Opens X} (hxW : x ∈ W) (hxU : x ∈ U) (hxV : x ∈ V)
    (r : R.obj (op W)) (m : M.obj (op U)) (p : P.obj (op V)) :
    R.germ W x hxW r • germTmul M P x hxU hxV m p
      = germTmul M P x (show x ∈ W ⊓ U from ⟨hxW, hxU⟩) hxV
          (R.map (homOfLE inf_le_left).op r • resSec (N := M) inf_le_right m) p
```

`resSec` is a `@[reducible] noncomputable def` for `N.map (homOfLE h).op`, added because the bare
`M.map … m` elaborates at `(restrictScalars …).obj (M.obj …)` and the `•` then fails to synthesize.
A plain type ascription does not fix it — `show … from` does, but then blocks `rw`; the reducible
helper is what satisfies both.

## Two more traps

**`R.presheaf` does not exist.** `R : X.Presheaf CommRingCat` *is* the functor, so it is `R.map`, not `R.presheaf.map` — unlike `M : PresheafOfModules R`, where `M.presheaf` is the underlying `Ab`-presheaf and `M.map` is the semilinear restriction. The two spellings sit side by side in these proofs.

**`M.map_smul` needs `erw`**, same concrete-category coercion problem as `map_add` and `tensorObj_map_tmul`. That is now three separate lemmas in this file that `rw` cannot see through; `erw` is the house workaround in `Divisors/Tensor.lean` for the same reason.

**Comment by chris-dare-dev** [comment]
**Unparked and finished.** `germ_smul_germTmul` — the three-neighbourhood `Rₓ`-linearity — now compiles. 152 lines on the backward side, no `sorry`, no warnings.

The residual goal from the checkpoint split into two, and each needed a *different* one of the traps already recorded in this thread:

```lean
    germ_smul_germTmul_self M P x hZ]
  congr 2
  unfold resSec
  erw [M.map_smul]
  congr 1
  · -- the two composites of restrictions along `Opens` inclusions agree, hom-sets being
    -- subsingletons; the spellings differ only by `R` versus `R ⋙ forget₂`
    rw [← ConcreteCategory.comp_apply, ← Functor.map_comp]
    congr 2
  · -- `M.map` is semilinear, so `Functor.map_comp` only applies after passing to `M.presheaf`
    show M.presheaf.map _ m = M.presheaf.map _ (M.presheaf.map _ m)
    rw [← ConcreteCategory.comp_apply, ← Functor.map_comp]
    rfl

end PresheafOfModules
```

* the **`R` side** is an honest category composition, so `← ConcreteCategory.comp_apply, ← Functor.map_comp` applies and `congr 2` finishes — `Subsingleton.elim` is not needed, `congr` finds it;
* the **`M` side** is *not*: `M.map` is semilinear over a changing ring and is not a functor map, so the same rewrite fails until the goal is restated through `M.presheaf`.

Two goals that look identical on the page, needing different treatment for a reason that is invisible in the goal display. That is the single most time-consuming thing in this file so far, and it has now bitten in three separate lemmas.

Also worth noting: stating the scalar restriction as `(R ⋙ forget₂ CommRingCat RingCat).map` rather than `R.map`, to match what `M.map_smul` produces, did **not** on its own fix anything — the two spellings still had to be reconciled by hand. The mixed spelling is unavoidable here because the `germ` side speaks `R` and the module side speaks `R ⋙ forget₂`.

## Backward side, complete

```
resSec · germTmul · germTmul_res_left · germTmul_res_right
germTmul_congr · germTmul_self
germ_smul_germTmul_self · germ_smul_germTmul
```

Every ingredient the backward map needs is now proved: the value on germs, independence of representatives, and `Rₓ`-linearity in the `M` slot at full generality.

## What is left

1. Additivity of `germTmul` in each slot — same common-neighbourhood move as `germTmul_congr`.
2. Linearity in the `P` slot — mirror of `germ_smul_germTmul`, and by symmetry of the tensor it may come cheaper.
3. The backward map itself: `TensorProduct.lift` over `Rₓ`, assembled from 1, 2 and what is above.
4. The forward cocone and `colimit.desc`.
5. The two composites, via `stalk_hom_ext` and `TensorProduct.ext`.

**Comment by chris-dare-dev** [comment]
**The inner half of the backward map is built.** For a fixed section `m` of `M`, tensoring against the whole stalk of `P` is now an actual morphism, not just a formula on germs.

```lean
```

The cocone is exactly the two pointwise lemmas doing their job: the legs are additive by `germTmul_add_right`, and natural by `germTmul_res_right`. Nothing else was needed — which is the first time in this file that a construction went in without a spelling fight.

## Traps, two more

**`AddMonoidHom.mk'` instead of the structure literal.** Building the leg as `{ toFun, map_zero', map_add' }` forces you to prove `germTmul m 0 = 0` separately, and the obvious route (`germTmul_add_right m 0 0`, then cancel) needs a lemma name that does not exist under the obvious guess. `mk'` takes only additivity, since these are groups.

**`OpenNhds` morphisms unwrap twice.** For `i : V ⟶ V'` in `(OpenNhds x)ᵒᵖ`, the underlying inequality is `i.unop.down.down`, not `i.unop.1` or `leOfHom i.unop` — it is a `ULift (PLift _)`. The error message points at `PLift` and is easy to misread as a universe problem.

**`ConcreteCategory.congr_hom`, not `congrFun ∘ congrArg`.** For turning `colimit.ι_desc` into a statement about elements, `congrFun (congrArg (fun f => ConcreteCategory.hom f) …)` leaves metavariables that will not unify; `ConcreteCategory.congr_hom h p` is the intended API.

## State

Backward side, all compiling, no `sorry`:

```
resSec · germTmul
germTmul_res_left · germTmul_res_right          -- shrinking
germTmul_congr                                  -- well-definedness
germTmul_self · germ_smul_germTmul_self
germ_smul_germTmul                              -- Rₓ-linearity, three neighbourhoods
germTmul_add_left · germTmul_add_right          -- additivity
germTmulCoconeRight · germTmulRight
germTmulRight_germ                              -- the computation rule
```

## Left

1. The outer cocone, in the `M` variable, with point the additive maps `Pₓ →+ (M ⊗ P)ₓ`. Legs additive by `germTmul_add_left`, natural by `germTmul_res_left` — the mirror of what just worked.
2. `Rₓ`-bilinearity of the resulting map, from `germ_smul_germTmul`.
3. `TensorProduct.lift` to get `Mₓ ⊗[Rₓ] Pₓ → (M ⊗ P)ₓ`.
4. The forward cocone and `colimit.desc`.
5. The two composites.

Step 1 should now be mechanical — every lemma it needs is proved and the pattern is established. Step 2 is where the `R.map` versus `R ⋙ forget₂` spelling will resurface.

**Comment by chris-dare-dev** [comment]
**The biadditive map exists.** `Mₓ → Pₓ → (M ⊗ P)ₓ` is now a real morphism with a computation rule on germs, not a formula waiting to be assembled.

```lean
/-- The biadditive map `Mₓ → Pₓ → (M ⊗ P)ₓ` underlying the backward comparison. -/
noncomputable def germTmulBiadd :
    TopCat.Presheaf.stalk M.presheaf x ⟶
      AddCommGrpCat.of (ToType (TopCat.Presheaf.stalk P.presheaf x) →+
        ToType (TopCat.Presheaf.stalk
          (MonoidalCategory.tensorObj (C := PresheafOfModules.{u} _) M P).presheaf x)) :=
  Limits.colimit.desc _ (germTmulCoconeLeft M P x)

@[simp]
lemma germTmulBiadd_germ (U V : Opens X) (hxU : x ∈ U) (hxV : x ∈ V)
    (m : M.obj (op U)) (p : P.obj (op V)) :
    germTmulBiadd M P x (TopCat.Presheaf.germ M.presheaf U x hxU m)
        (TopCat.Presheaf.germ P.presheaf V x hxV p)
      = germTmul M P x hxU hxV m p := by
  have h : germTmulBiadd M P x (TopCat.Presheaf.germ M.presheaf U x hxU m)
      = (germTmulRight M P x U hxU m).hom :=
    ConcreteCategory.congr_hom
      (Limits.colimit.ι_desc (germTmulCoconeLeft M P x) (op ⟨U, hxU⟩)) m
  rw [h]
  exact germTmulRight_germ M P x U V hxU hxV m p

end PresheafOfModules
```

Both cocones went in without mathematical trouble — the pointwise lemmas were exactly the hypotheses they needed. `germTmulCoconeRight` uses `germTmul_add_right` / `germTmul_res_right`; `germTmulCoconeLeft` uses the mirror pair, lifted to the morphism level as `germTmulRight_add` and `germTmulRight_res_left`, both of which compiled first try.

## Traps, three more

**`ext m ξ` does not split a bundled hom equality.** After `ext m` the goal is an equality of `AddMonoidHom`s and `ext` stops; the second pattern is silently unconsumed (the linter says so, then the identifier is unknown). Finish with `congrArg AddCommGrpCat.Hom.hom` on the already-proved morphism-level lemma instead.

**`DFunLike.congr_fun` cannot see through a cocone point.** `↑(germTmulCoconeLeft M P x).pt` does not reduce far enough for the `DFunLike` instance to be found. Stating the intermediate step with its type written out —

```lean
have h : germTmulBiadd M P x (germ M.presheaf U x hxU m) = (germTmulRight M P x U hxU m).hom := …
```

— fixes it, and is the same "name the equation and give it a type" move that fixed `map_add` at the very start of this file. That is now the fourth distinct place it has been the answer.

**`AddMonoidHom.mk'` again for the outer legs**, for the same reason as the inner ones.

## State: 285 lines, 18 declarations, no `sorry`

```
resSec · germTmul
germTmul_res_left · germTmul_res_right · germTmul_congr
germTmul_self · germ_smul_germTmul_self · germ_smul_germTmul
germTmul_add_left · germTmul_add_right
germTmulCoconeRight · germTmulRight · germTmulRight_germ
germTmulRight_res_left · germTmulRight_add
germTmulCoconeLeft · germTmulBiadd · germTmulBiadd_germ
```

## Left

1. Upgrade `germTmulBiadd` from biadditive to `Rₓ`-bilinear, using `germ_smul_germTmul`. Every element of `Mₓ`, `Pₓ` and `Rₓ` is a germ, so this is `exists_germ_eq` three times and then the lemma — the same shape as `germTmulRight_add`.
2. `TensorProduct.lift` to get `Mₓ ⊗[Rₓ] Pₓ → (M ⊗ P)ₓ`.
3. The forward cocone and `colimit.desc`.
4. The two composites, by `stalk_hom_ext` and `TensorProduct.ext`.

Step 1 is the last place a new obstacle could appear; 2–4 are assembly.

**Comment by chris-dare-dev** [comment]
**Done — route 1 closes.** [#937](https://github.com/chris-dare-dev/derived-alg-geo-lean/pull/937), branch `agent/s833-stalk-tensor`.

`isIso_tensorSheafificationComparisonLeft` holds for arbitrary `L`, and `tensorAssocIso` needs only
`N` invertible. Both acceptance criteria that matter to #570 are met.

## Three corrections to the reconnaissance above

**1. The route-1 ingredient list was wrong about one item.** `sheafifyStalkIso`
(`Topology/Sheaves/Sheafify.lean:124`) is scoped to `Presheaf (Type v) X` — see the `variable` line
at `:44` — and does not apply to `AddCommGrpCat`-valued presheaves at all. It is also not needed:
`stalkFunctor_map_unit_toSheafify_isIso` (`:137`) sits in a *separate* section quantified over a
general `C` and already says what `sheafifyStalkIso` was wanted for. The other two ingredients,
`isIso_of_stalkFunctor_map_iso` and `stalkFunctor_map_unit_toSheafify_isIso`, are general and were
used as described.

**2. "No stalkwise characterisation of `IsLocallyInjective`" is true and turned out not to matter.**
`GrothendieckTopology.W_iff` reduces `J.W f` to `IsIso ((presheafToSheaf J A).map f)`, and
`isIso_of_stalkFunctor_map_iso` decides *that* on stalks. So `J.W` has a stalkwise criterion even
though its injective half does not. The whole point is never to split it. That is
`TopCat.Presheaf.W_of_isIso_stalkFunctor_map`, which is the naturality square of `toSheafify` read
on stalks — three edges are isomorphisms, so the fourth is.

**3. The file paths in this issue are stale.** `Divisors/Tensor.lean` moved to
`AlgebraicGeometry/Modules/Tensor/Basic.lean`; the old path is now a compatibility import. Every
line number quoted still resolves, at the new path.

## The chain

```
stalkTensorEquiv                              (M ⊗ P)ₓ ≅ Mₓ ⊗[Rₓ] Pₓ
stalkMap                                      stalk maps of module morphisms are Rₓ-linear
stalkMapAdd_whiskerLeft                       stalkTensorEquiv is natural in P
isIso_stalkMapAdd_whiskerLeft                 Mₓ ⊗ (iso) is an iso — no flatness needed
TopCat.Presheaf.W_of_isIso_stalkFunctor_map   stalkwise iso ⇒ J.W
PresheafOfModules.W_whiskerLeft_of_isIso_stalk
isIso_sheafification_map_whiskerLeft_unit
```

`stalkTensorEquiv` was the missing piece and is ~600 lines. It mentions nothing from this tree —
it extends Mathlib's `Algebra/Category/ModuleCat/Stalk.lean` and consumes its `germ_smul` — so it
lands in `Algebra/`, alongside the other infrastructure marked for eventual upstreaming.

## The rank-one lemmas stay

They are not subsumed. The stalkwise route needs a topological space; over a general site they
remain the only proof, which is where they are stated.

## Three stale docstrings, not fixed here

These now assert something false, and they belong to #570's lane rather than this one:

* `Proj/Modules/Glue.lean:460`
* `Proj/Modules/TensorTwist.lean:27`
* `Proj/Modules/GlueUniform.lean:23`

All three say `tensorAssocIso` requires both outer factors invertible, so no rearrangement of
`(F ⊗ O(d)) ⊗ O(e)` gets the non-invertible `F` off an outer slot. That obstruction is gone —
`tensorAssocIso F O(d) O(e)` is now legal. Whether the associator route is *preferable* to the
graded-shift one is a separate question and is not settled by this PR; what is settled is that the
reason recorded for not trying it no longer holds. The two paragraphs in
`AlgebraicGeometryAudit/Core.lean` making the same claim sit directly on declarations this PR
changes and are corrected in it.

## Still open

`isIso_tensorSheafificationComparisonRight` and the hypothesis on `N` in `tensorAssocIso` are out of
scope per the scope note. Both should now fall out of the braiding argument
`isIso_sheafification_map_whiskerRight_of_rankOneData` already uses, since the left half it reduces
to is general now. Worth its own issue.

## Verification

**No CI verdict exists.** Both self-hosted runners are offline, so this branch's run is queued and
so is `main`'s from #885. `runLinter`, `check_audit_complete` and `check_single_instantiation` have
not run, and neither have ~107 of the transitive consumers. #937 says which checks did pass locally
and asks not to be merged on them alone.

**Comment by chris-dare-dev** [comment]
Follow-on filed as #944: `isIso_tensorSheafificationComparisonRight` for arbitrary `L`, and `tensorAssocIso` with no hypothesis on any factor. Both are the part this issue's scope note deferred, and both should reduce to the braiding argument `isIso_sheafification_map_whiskerRight_of_rankOneData` already uses now that its left-hand input is hypothesis-free.
